Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ female with no significant past medical history
presenting with several months of dyspnea on exertion. 

Prior to the onset of her symptoms in ___, patient was living
a fully functional life, citing yoga and exercise classes, and
having no cardiopulmonary symptoms.  

She first noticed her shortness of breath in ___ during the
more humid days out on the ___.  She said as long as she went
inside, her symptoms resolved and she didn't think much of it. 
Since that time, there has been a steady progression of dyspnea
on exertion.  At this point, she is essentially home bound and
has considerable breathlessness with doing usual household tasks
and walking only a few feet on flat ground.  She no longer 
drives
as a result of all this. 

She has a home pulse ox that she uses now, and when she is
particularly breathless will note desaturations in the low ___. 
Her recovery time has also progressed, sometimes taking over 30
minutes before she catches her breath if she really pushes
herself before stopping.  

She never has symptoms that start at rest. There is never a 
cough
or hemoptysis, sputum, fevers, chills, night sweats, chest 
pains,
swelling in the legs, orthopnea, PND. She has a distant history
of tobacco use, probably around a 15 pack year history, but quit
over ___ years ago. She did not have any occupational exposures
and her house was renovated in ___, a couple months before
her symptoms began. Her only pet is a dog. 

She has a history of well controlled GERD and notes that she has
to chew her food really well or else it will feel like it gets
stuck, this is a long standing issue and there is never a 
problem
with liquids.  She has arthritis in her hands, also a long
standing issue. There is also a history of Raynaud's.  She 
denies
any spider-like rashes. Her only other positive review of system
is a hoarseness to her voice. 

She has been worked up by cardiology (normal ECHO and left heart
cath report in her chart, and apparently a nuclear stress test
was normal as well). She has been seen by a pulmonary physician
___) and has been imaged with CTA which was notable
only for some atelectasis. She does not think she has ever been
imaged with a non-contrasted chest CT. Bilateral ___ showed no
blood clots. 

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  

In the ED, initial VS were: 98 71 116/49 22 98% 2LNC 
Exam was unremarkable 
EKG: sinus, 71, NA/NI, no STEMI or ischemia 
Labs showed:  
CBC, chem panel wnl.
Trop <0.01, proBNP 76
Imaging showed:  
Patient received: no medications 
Transfer VS were: 98 73 110/47 21 96% RA 
 
Past Medical History:
-GERD
-Arthritis 
-Distant tobacco use 
-Bilateral TKR 
-Lumbar surgery 
 
Social History:
___
Family History:
-No history of IPF 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
======================
VS:  97.5 114/69 75 18 97% RA  
GENERAL: NAD    
NECK: JVP flat   
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: dense crackles at the bilateral bases 
ABDOMEN: soft, NTND 
MSK: bilateral ___ and ___ MCP joints of hands are enlarged, 
some
of her DIPs are swollen as well. 
EXTREMITIES: warm, no edema  
NEURO: A&Ox3
SKIN: no obvious telangectasias 

DISCHARGE PHYSICAL EXAM:  
======================
VITALS: Temp: 98.0 PO BP: 112/71 Lying HR: 68 RR: 16 O2 sat: 94%
O2 delivery: Ra
GENERAL: NAD, sitting up in bed
EYES: PERRL, sclera anicteric
ENT: MMM, OP clear
CV: RRR, no m/r/g
RESP: CTAB. No wheezing noted.
GI: non-tender, non-distended
GU: deferred
MSK: no pitting edema
SKIN: no rashes, telangiectasias, or calcinosis noted.
NEURO: A&Ox3
 
Pertinent Results:
ADMISSION LABS:
==============
___ 09:10PM BLOOD WBC-9.9 RBC-4.50 Hgb-13.0 Hct-38.7 MCV-86 
MCH-28.9 MCHC-33.6 RDW-13.6 RDWSD-42.7 Plt ___
___ 08:15AM BLOOD ___ PTT-26.1 ___
___ 09:10PM BLOOD Glucose-102* UreaN-17 Creat-0.7 Na-139 
K-4.5 Cl-102 HCO3-25 AnGap-12
___ 06:35AM BLOOD ALT-9 AST-16 LD(LDH)-148 CK(CPK)-22* 
AlkPhos-66 TotBili-0.6
___ 09:10PM BLOOD proBNP-76
___ 09:10PM BLOOD cTropnT-<0.01
___ 06:35AM BLOOD Albumin-3.8 Calcium-9.0 Phos-3.9 Mg-1.9

PERTINENT/DISCHARGE LABS:
======================
___ 06:35AM BLOOD TSH-3.7
___ 08:15AM BLOOD CRP-3.3
___ 06:35AM BLOOD RheuFac-<10 ___
___ 07:45AM BLOOD WBC-7.0 RBC-4.75 Hgb-13.4 Hct-42.2 MCV-89 
MCH-28.2 MCHC-31.8* RDW-13.7 RDWSD-44.6 Plt ___
___ 07:45AM BLOOD Glucose-93 UreaN-15 Creat-0.8 Na-143 
K-4.7 Cl-101 HCO3-26 AnGap-16
___ 07:45AM BLOOD Calcium-9.6 Phos-3.8 Mg-1.9

IMAGING REPORTS
==============
CXR PA AND LAT ___:
FINDINGS: 
Lungs are moderately well expanded and essentially clear.  
Cardiomediastinal
silhouette hila are unremarkable.  No pneumothorax or pleural 
effusion.
 
IMPRESSION:
No evidence of pneumonia.

CT HIGH RES LUNG ___:
IMPRESSION: 
1.  No findings of interstitial lung disease.
2.  No acute pulmonary parenchymal process.
3.  3 mm nodule in the left upper lobe.  See below for 
recommendations.
 
RECOMMENDATION(S):  For incidentally detected single solid 
pulmonary nodule
smaller than 6 mm, no CT follow-up is recommended in a low-risk 
patient, and
an optional CT in 12 months is recommended in a high-risk 
patient.

CXR AP ___:
IMPRESSION: 
Compared to ___.
 
Lungs are lower in volume but clear.  Heart size top-normal.  No 
pulmonary
vascular engorgement, edema, or pleural effusion.

 
Brief Hospital Course:
Key Information for Outside Providers: 
___ is a ___ year old female with past medical history of GERD 
admitted ___ w several months of progressive dyspnea on 
exertion of unclear etiology despite broad workup, ambulating 
without episodes of hypoxia, able to be discharged 

# Dyspnea on Exertion 
The patient presented with progressive dyspnea on exertion for 
several months. Work-up prior to her hospitalization included 
EKG, CBC, left heart catheterization without coronary disease, 
TTE without valvulopathy or wall motion abnormality, PFTs, and 
CTA without identified etiology.  Given the severity of her 
symptoms, she was referred to ___ for an expedited work-up. 
Here, rheumatologic testing including ___, RF, ANCA, Sjogren's 
antibodies, anti-CCP, ESR, and TSH, all of which were within 
normal limits. Pulmonology consult service saw the patient and 
recommended a CT chest high resolution, which was negative for 
any interstitial process. Repeat PFTs without evidence of 
obstructive disease, but did demonstrate a mild restrictive 
deficit that could suggest a possible neuromuscular process.  
However, patient was subsequently seen by the neuromuscular 
consult service with a reassuring exam and an EMG that did not 
show evidence for any evolving neuromuscular process.  Repeat 
TTE w/ bubble was unremarkable with no evidence of pulm HTN or 
shunting.  Throughout this time, ___ hospital course was 
notable for an absence of daytime hypoxia, or any correlation 
between reported symptoms and vital sign abnormality. She was 
frequently seen ambulating comfortably and/or talking on the 
phone without issue. 
 Patient was seen by psychiatry who felt that patient did not 
meet criteria for primary anxiety disorder or illness anxiety 
disorder. Given extensive negative work-up, clinical stability, 
and absence of hypoxia, the patient was felt to be safe for 
discharge home with outpatient pulmonary follow-up and planned 
CPET testing.  Given several episodes of mild desaturation 
during sleep, would consider referral for outpatient sleep 
study.  Discharged home with ___ services. 

# Sinus Headache
During hospital course, patient reported a single episode 
consistent with sinus headache that resolved with 
guaifenesin/DM and Tylenol and did not recur. 

TRANSITIONAL ISSUES:
=================
[] Incidental finding of 3mm pulm nodule noted on CT; per 
radiology "For incidentally detected single solid pulmonary 
nodule smaller than 6 mm, no CT follow-up is recommended in a 
low-risk patient, and an optional CT in 12 months is 
recommended in a high-risk patient."

EMERGENCY CONTACT: ___ ___
CODE STATUS: FULL CODE PRESUMED

> 30 minutes spent on this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Systane (PF) (peg 400-propylene glycol (PF)) 0.4-0.3 % 
ophthalmic (eye) BID 
3. Ascorbic Acid ___ mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Multivitamins 1 TAB PO 3X/WEEK (___) 
6. LOPERamide 2 mg PO 3X/WEEK (___) 
7. Glucosamine Chondroitin MaxStr (glucosamine-chondroit-vit 
C-Mn) 500-400 mg oral DAILY 
8. Calcium Carbonate 1000 mg PO DAILY 

 
Discharge Medications:
1.  Ascorbic Acid ___ mg PO DAILY  
2.  Calcium Carbonate 1000 mg PO DAILY  
3.  Glucosamine Chondroitin MaxStr (glucosamine-chondroit-vit 
C-Mn) 500-400 mg oral DAILY  
4.  LOPERamide 2 mg PO 3X/WEEK (___)  
5.  Multivitamins 1 TAB PO DAILY  
6.  Omeprazole 20 mg PO DAILY  
7.  Systane (PF) (peg 400-propylene glycol (PF)) 0.4-0.3 % 
ophthalmic (eye) BID  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
DYSPNEA ON EXERTION
Sinus headache
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you during your admission here.

Why were you admitted to the hospital?
- You were having progressively worsening shortness of breath. 
You were transferred here to have a work up for causes of your 
breathing difficulty

What happened while I was admitted?
- You were seen by our lung specialists
- You had another CT scan of your lungs which showed no acute 
process
- You had another echo of your heart that was normal
- You had repeat pulmonary function tests that showed mild 
restrictive disease of the lungs
- You had an EMG test to see if your breathing muscles were 
weak, but this was normal 
- Your oxygen levels were monitored and it was found that your 
oxygen levels dropped occasionally with talking or at nighttime

What should you do when you leave the hospital?
- Please take your medications as listed below
- Please follow up with your appointments as listed, including 
the CPET test
- Please schedule a sleep study for outpatient 

We wish you all the best,

Your ___ Care Team
 
Followup Instructions:
___